US08487108B2
Step 1. (S)-tert-butyl 4-((R)-4-(1-hydroxycyclopropyl)-2-(tosyloxymethyl)butyl)-2,2-dimethyloxazolidine-3-carboxylate
(S)-tert-Butyl 4-((R)-5-ethoxy-5-oxo-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate (1.82 g, 3.55 mmol) and Ti(Oi-Pr)4 were dissolved in THF (30 mL) and allowed to stir at ambient temperature. A solution of EtMgBr (3.0 M, 5.91 mL, 17.8 mmol, 5.0 equiv) was added over a 6 hr period via syringe pump and the resulting mixture stirred overnight. The mixture was treated with a 50% solution of Rochelle's salt and diluted with EtOAc. The layers were separated and the aqueous layer extracted with additional EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and evaporated. The resulting crude (S)-tert-butyl 4-((R)-4-(1-hydroxycyclopropyl)-2-(tosyloxymethyl)butyl)-2,2-dimethyloxazolidine-3-carboxylate was used in the next step with no further purification.

reactant | (S)-tert-Butyl 4-((R)-5-ethoxy-5-oxo-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate | 3.55 mmol, 1.82 g | C(C)OC(CC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C)C=C1)=O | C25H39NO8S
reactant | EtMgBr | 17.8 mmol, 3.0 M, 5.91 mL, 5.0 equiv | CC[Mg+].[Br-]
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 4-((R)-4-(1-hydroxycyclopropyl)-2-(tosyloxymethyl)butyl)-2,2-dimethyloxazolidine-3-carboxylate | OC1(CC1)CC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C)C=C1 | C25H39NO7S
